US04536518
(C) 4-(4-Bromophenyl)-4-phenylbutanoic Acid
A solution of 4-(4-bromophenyl)-4-phenylbut-3-enoic acid (5.0 g., 0.0157 mole) in glacial acetic acid (50 ml.) was treated with 56.9% aqueous hydriodic acid (22.5 ml.) and red phosphorus (4.5 g.) and the resulting mixture stirred at reflux for 16 hours. The reaction mixture was then cooled to room temperature, diluted with saturated aqueous sodium chloride solution (250 ml.) and extracted with methylene chloride (250 ml.). The extract was washed with saturated aqueous sodium chloride solution (2×100 ml.), dried (MgSO4) and evaporated under vacuum to the desired butanoic acid derivative, which was used in the next step without further purification (5 g., oil, ca. 99% yield).

reactant | 4-(4-bromophenyl)-4-phenylbut-3-enoic acid | 0.0157 mole, 5.0 g | BrC1=CC=C(C=C1)C(=CCC(=O)O)C1=CC=CC=C1 | C16H13BrO2
reactant | hydriodic acid | 22.5 ml | I | HI
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | sodium chloride | 250 ml | [Cl-].[Na+]
product | 4-(4-Bromophenyl)-4-phenylbutanoic Acid | ca. 99% yield | BrC1=CC=C(C=C1)C(CCC(=O)O)C1=CC=CC=C1 | C16H15BrO2
